US06103910
a) (R)-1-[3-[[3-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-cyclopropylmethyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester
A solution of 444 mg (1.71 mmol) (R)-1-acryloyl-pyrrolidine-2-carboxylic acid benzyl ester and 74 ml (0.85 mmol) cyclopropylmethylamine in 5 ml acetonitrile was stirred for 1 h at room temperature, then for 16 h at 80° C. Concentration in vacuo and flash chromatography (gradient: 0-100% MeOH in EtOAc) afforded 220 mg (44%) of the title compound as a yellow oil.

reactant | (R)-1-acryloyl-pyrrolidine-2-carboxylic acid benzyl ester | 1.71 mmol, 444 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C15H17NO3
reactant | cyclopropylmethylamine | 0.85 mmol, 74 ml | C1(CC1)CN | C4H9N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (R)-1-[3-[[3-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-cyclopropylmethyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester | 220 mg, 44% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCN(CC1CC1)CCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C34H43N3O6
